US04772600
5-Chloro-2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid
A solution of N-[6-chloro-3-[(4-chlorobenzoyl)amino]-2-pyridinyl]glycine ethyl ester (1.7 g, 0.00462 mole) in ethylene glycol (25 ml) was refluxed under nitrogen for two hours. To one-half of the solution (0.0023 mole) was added water (2 ml) and solid potassium hydroxide (0.20 g, 0.003515 mole) and the mixture was refluxed for an additional 15 minutes, poured into ice water (100 ml) and acidified with 3N hydrochloric acid solution. The resulting solid was collected by filtration, rinsed with water, dissolved in hot methanol and filtered hot. Addition of water to the cloud point and cooling to room temperature gave a solid which was collected by filtration, washed with water, and dried at 60° C. under high vacuum to give 0.4 g (54% yield) of title compound, mp>250° C.

reactant | N-[6-chloro-3-[(4-chlorobenzoyl)amino]-2-pyridinyl]glycine ethyl ester | 0.00462 mole, 1.7 g | C(C)OC(CNC1=NC(=CC=C1NC(C1=CC=C(C=C1)Cl)=O)Cl)=O | C16H15Cl2N3O3
reactant | water | 2 ml | O | H2O
reactant | potassium hydroxide | 0.003515 mole, 0.20 g | [OH-].[K+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | ethylene glycol | 25 ml | C(CO)O | C2H6O2
product | 5-Chloro-2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.4 g, 54% yield | ClC1=CC=C2C(=N1)N(C(=N2)C2=CC=C(C=C2)Cl)CC(=O)O | C14H9Cl2N3O2
